US08377970B2
N-{4-[5-cyclopropyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]-3-fluorophenyl}-N,4-dimethylpyrimidine-5-carboxamide
N-{4-[5-cyclopropyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]-3-fluorophenyl}-4-methylpyrimidine-5-carboxamide (300 mg, 0.74 mmol) was dissolved in THF, cooled to 0° C., added sodium hydride (35 mg, 1.48 mmol) and stirred the mixture for 30 mins at the same temperature. Methyl Iodide (120 mg, 0.84 mmol) was added and heated the reaction mixture to rt. After 3 h, reaction mixture quenched with water. Work up (H2O/AcOEt) and purification afforded the title compound (120 mg) as a pale-yellow solid. 1H-NMR (δ ppm, CDCl3, 400 MHz): 8.99 (s, 1H), 8.41 (s, 1H), 7.46 (t, J 8.1, 1H), 7.08-7.01 (m, 2H), 6.21 (s, 1H), 3.53 (s, 3H), 2.58 (s, 3H), 1.60-1.51 (m, 1H), 0.98-0.88 (m, 2H), 0.70-0.60 (m, 2H). MS (m/z): 418.35 [M−H]−.

reactant | N-{4-[5-cyclopropyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]-3-fluorophenyl}-4-methylpyrimidine-5-carboxamide | 0.74 mmol, 300 mg | C1(CC1)C1=CC(=NN1C1=C(C=C(C=C1)NC(=O)C=1C(=NC=NC1)C)F)C(F)(F)F | C19H15F4N5O
reactant | sodium hydride | 1.48 mmol, 35 mg | [H-].[Na+]
reactant | Methyl Iodide | 0.84 mmol, 120 mg | CI | CH3I
solvent | THF | C1CCOC1 | C4H8O
product | N-{4-[5-cyclopropyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]-3-fluorophenyl}-N,4-dimethylpyrimidine-5-carboxamide | 120 mg | C1(CC1)C1=CC(=NN1C1=C(C=C(C=C1)N(C(=O)C=1C(=NC=NC1)C)C)F)C(F)(F)F | C20H17F4N5O
